US07338960B2
1-{6-[4-(Trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol (Method B)
A solution of 6-[4-(trifluoromethyl)phenyl]-2-pyridinecarbaldehyde (2.50 g, 9.95 mmol) in dry THF (100 mL) was cooled to 0° C. (ice/water bath) and treated with nBuLi (6.8 mL of a 1.6M solution in hexanes, 10.88 mmol) under nitrogen drop-wise over 20 minutes. The resulting deep red coloured solution was stirred at 0° C. for 1.5 hours and then quenched by the addition of aqueous HCl (2M, 10 mL) and allowed to warm to rt over about 20 minutes. The solvents were then removed under vacuum and the residue partitioned between EtOAc (150 mL) and saturated aqueous NaHCO3 (150 mL) and the layers separated. The aqueous was re-extracted with EtOAc (100 mL) and the combined organic layer washed with water (200 mL), brine (200 mL), dried (MgSO4), filtered and reduced to give a pale yellow foam. Purification by Biotage™ chromatography (silica) eluting with cyclohexane:EtOAc (gradient 100:1 to 0:1) afforded the title compound as a pale yellow oil (1.99 g).

reactant | 6-[4-(trifluoromethyl)phenyl]-2-pyridinecarbaldehyde | 9.95 mmol, 2.50 g | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C=O)(F)F | C13H8F3NO
reactant | nBuLi | [Li]CCCC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-{6-[4-(Trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol | 1.99 g | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)O)(F)F | C17H18F3NO
